US08304412B2
Methyl 3-cyanobenzoate
100 mg (0.68 mmol) of 3-cyanobenzoic acid are initially charged in 4 ml of toluene and 3.5 ml of methanol, and 0.51 ml (1.02 mnmol) of a 2 M solution of trimethylsilyldiazomethane in n-hexane is added at RT. The reaction mixture is stirred at RT for 1.5 h. After removal of the solvent on a rotary evaporator the residue is dried under reduced pressure. The product is obtained in pure form and is directly reacted further.

reactant | 3-cyanobenzoic acid | 0.68 mmol, 100 mg | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 3.5 ml | CO | CH4O
solvent | n-hexane | CCCCCC | C6H14
product | Methyl 3-cyanobenzoate | C(#N)C=1C=C(C(=O)OC)C=CC1 | C9H7NO2
